US05872167
Preparation of N-(3-hydroxyphenyl)maleamic acid
A dry 3-liter 3-neck round bottom flask was fitted with a stirrer and thermocouple arrangement. The system was flushed with nitrogen and charged with 211 grams (2.15 moles) of maleic anhydride dissolved in 800 ml of xylene. The maleic anhydride was heated with stirring at 50° C. to form a solution. 3-aminophenol (220 g, 2.02 moles) was then slowly added neat to the solution with vigorous stirring over a period of about 5 minutes. The flask was again flushed with nitrogen and sealed under a nitrogen balloon. The flask was held at 50°-55° C. with vigorous stirring for 4 hours. At the end of 4 hours, the stirring was continued and the flask and contents were cooled with tap water/wet ice to 10° C. The bright yellow-colored slurry was readily poured out of the neck of the flask and vacuum filtered through a No. 4 filter paper to give a wet filter cake. The product was dried at a temperature below 50° C. in a draft hood. The yellow product was a powder melting at 115° C. Specific gravity was 1.210.

reactant | maleic anhydride | 2.15 moles, 211 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 3-aminophenol | 2.02 moles, 220 g | NC=1C=C(C=CC1)O | C6H7NO
solvent | xylene | 800 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-hydroxyphenyl)maleamic acid | OC=1C=C(C=CC1)NC(\C=C/C(=O)O)=O | C10H9NO4
